2113-11-22 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 IABP LINE - START [**2113-11-21**] 07:31 PM
 ARTERIAL LINE - START [**2113-11-21**] 09:02 PM sidearm off IABP- using
   this access for lab drawing
   - control pain with nitro and morphine
   - on nitro gtt and IABP bridging to CABG in am
   - need TTE in am for eval, preop labs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2113-11-22**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-22**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 69 (53 - 72) bpm
   BP: 92/63(78) {92/62(78) - 127/76(103)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                    529 mL
                                                                    263 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    429 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    820 mL
   Urine:
                                                                    200 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   heart sounds obscured by IABP. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   174 K/uL
   13.0 g/dL
   132 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   38.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2113-11-21**]  08:20 PM
                             [**2113-11-22**]  02:17 AM
   WBC
   8.0
   10.3
   Hct
   37.9
   38.2
   Plt
   186
   174
   Cr
   0.8
   0.7
   TropT
   0.37
   0.65
   Glucose
   103
   132
   Other labs: PT / PTT / INR:12.9/64.6/1.1, CK / CKMB /
   Troponin-T:1071/94/0.65, ALT / AST:42/123, Alk Phos / T Bili:77/0.5,
   Amylase / Lipase:/37, Albumin:3.7 g/dL, LDH:313 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   CATH: right dominant system (left main plus two vessel obstructive
   CAD). The LMCA had a 70% stenosis distally. The LAD was diffusely
   diseased, with a 80% proximal stenosis. The LCX had a 90% proximal
   stenosis, and had an occluded OM2. The RCA had mild disease, with a 50%
   stenosis in the PL. A 9 Fr 30 CC intraaortic balloon pump was inserted
   due to ongoing chest pain.
   Assessment and Plan
   53 year old man without significant past medical history who presents
   with chest pain and troponin elevation consistent with NSTEMI and found
   to have three vessel disease.
   # NSTEMI: 3VD with plan to undergo CABG today. Currenly chest pain
   free.
   - continue asa, heparin ggt, Statin, BB.
   - hold clopidrogel in am, pre-op
   - pain control and afterload reduction with nitro ggt (goal SBP in 90s)
   - 12.5 metoprolol q6h for heart rate of 60, nitro gtt for MAP of 60-80.
   - morphine prn, ativan for anxeity
   - TTE in am
   - trend CE
   - if pain uncontrollable, then will consider intergrillin
   # Nicotine addiction: Advised cessation.
   - nicotine patch
   FEN: prn lytes, NPO
   ACCESS: PIV's, fem line
   PROPHYLAXIS: hep ggt, ppi
   CODE: Presumed full
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2113-11-21**] 07:31 PM
   20 Gauge - [**2113-11-21**] 07:31 PM
   Arterial Line - [**2113-11-21**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9683**].
   I would add the following remarks:
   History
   53 yr old smoker transferred with chest pain and positive enzymes with
   nonSTEMI.
   Urgent cath showed 3 vessel CAD.  IABP placed for continued angina and
   CABG planned today.
   Painfree overnight.
   CK 1071.
   Physical Examination
   Groin site intact with good pulses.
   Medical Decision Making
   CABG later today.
   Continues on ASA, heparin, BB, statin.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2113-11-22**] 10:43 ------